US04251543
To a solution of 9.5 g of 1-(p-prenylphenyl)-ethanol, 4.0 ml of pyridine and 60 ml of benzene, a solution of 5.9 g of thionyl chloride in 10 ml of benzene was added dropwise at 0°-5° C. with stirring. After stirring at room temperature for an hour, the reaction mixture was washed with water, aqueous sodium hydrogen carbonate and water successively and dried. Removal of the benzene gave 10.1 g of 1-chloro-1-(p-prenylphenyl)ethane.

reactant | 1-(p-prenylphenyl)-ethanol | 9.5 g | C(C=C(C)C)C1=CC=C(C=C1)C(C)O | C13H18O
reactant | pyridine | 4.0 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 5.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-1-(p-prenylphenyl)ethane | 10.1 g | ClC(C)C1=CC=C(C=C1)CC=C(C)C | C13H17Cl
